US07205302B2
2-[4-chloro-(Z)-2-buten-1-yloxy]acetic Acid Tert-Butyl Ester
To a solution of 420 mg of 2-[4-hydroxy-(Z)-2-buten-1-yloxy]acetic acid tert-butyl ester in 10 ml of N,N-dimethylformamide, 1.00 g of 2,4,6-collidine and 350 mg of lithium chloride were added. While stirring under ice cooling, 0.64 ml of methanesulfonyl chloride was added dropwise, followed by stirring at room temperature for 2 hours. The reaction solution was extracted with ethyl acetate after adding iced water, and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 350 mg of the desired compound as a colorless oily substance.

reactant | 2-[4-hydroxy-(Z)-2-buten-1-yloxy]acetic acid tert-butyl ester | 420 mg | C(C)(C)(C)OC(COC\C=C/CO)=O | C10H18O4
reactant | 2,4,6-collidine | 1.00 g | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | lithium chloride | 350 mg | [Cl-].[Li+]
reactant | methanesulfonyl chloride | 0.64 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-[4-chloro-(Z)-2-buten-1-yloxy]acetic Acid Tert-Butyl Ester | 350 mg | C(C)(C)(C)OC(COC\C=C/CCl)=O | C10H17ClO3
